US09382188B2
A) 3,3-dimethylbutyl methanesulfonate
To a solution of 3,3-dimethylbutan-1-ol (20.2 g) and triethylamine (41.3 mL) in THF (200 mL) was added methanesulfonyl chloride (24.9 g) under ice-cooling, and the mixture was stirred for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (36.5 g) as a red-orange oil.

reactant | 3,3-dimethylbutan-1-ol | 20.2 g | CC(CCO)(C)C | C6H14O
reactant | triethylamine | 41.3 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 24.9 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3,3-dimethylbutyl methanesulfonate | 36.5 g | CS(=O)(=O)OCCC(C)(C)C | C7H16O3S
